US04572796
Preparation of 1,1,4,7-Tetramethyl Indane
Over a period of 4.25 hours while maintaining the reaction mass at 20° C., a mixture of 540 grams (8.0 moles) of isoprene and 1590 grams (15 moles) of para-xylene is added to the reaction mass.

reactant | isoprene | 8.0 moles, 540 grams | C=CC(C)=C | C5H8
reactant | para-xylene | 15 moles, 1590 grams | C1(=CC=C(C=C1)C)C | C8H10
product | 1,1,4,7-Tetramethyl Indane | CC1(CCC2=C(C=CC(=C12)C)C)C | C13H18
